US04255436
2-oxo-4-ethyl-5,5-dimethyl-3-thiazoline-oxime was reacted with methyl isocyanate as described in Example 4 to yield 2-oxo-4-ethyl-5,5-dimethyl-3-thiazoline-O-(methylcarbamoyl)-oxime, m.p. 98°-100° C. The 2-oxo-4-ethyl-5,5-dimethyl-3-thiazoline-oxime starting material (m.p. 178°-180° C.) was prepared from 2-methyl-2-thiocyanato-3-pentanone (b.p. [0.03 mm] 56°-58° C.).

reactant | 2-oxo-4-ethyl-5,5-dimethyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)CC)(C)C | C7H12N2OS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 2-oxo-4-ethyl-5,5-dimethyl-3-thiazoline-O-(methylcarbamoyl)-oxime | CNC(=O)ON=C1SC(C(=N1)CC)(C)C | C9H15N3O2S
